data/oMe_Silver.jsonl
{"reaction_id": "NR-144_1-c1ccc(OC)cc1_2-C1=CC=CS1_3-F_4-c1ccccc1_5-C","name": "Michael Addition","level": "medium","reactants_smiles": ["C(c1ccc(OC)cc1)(C1=CC=CS1)=C(F)C(=O)C","S([H])c1ccccc1"],"products_smiles": ["S(c1ccccc1)C(c1ccc(OC)cc1)(C1=CC=CS1)C(F)C(=O)C"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[S-]c1ccccc1","rationale": "Base abstracts the acidic proton from the thiol due to sulfur’s relatively low pKa, generating a thiolate anion with high nucleophilicity."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(c1ccccc1)C(c1ccc(OC)cc1)(C1=CC=CS1)C(F)=C([O-])C","rationale": "The thiolate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(c1ccccc1)C(c1ccc(OC)cc1)(C1=CC=CS1)C(F)C(=O)C","rationale": "The enolate intermediate is protonated to form the neutral thioether, driven by the thermodynamic stability of the carbonyl group."}],"description": "Under basic conditions, the thiol is deprotonated to form a strong nucleophile, which undergoes conjugate (Michael) addition to the α,β-unsaturated carbonyl. The resulting enolate intermediate is then protonated to yield the stable thioether product."}
{"reaction_id": "NR-321_1-c1ccccc1_2-c1ccc(OC)cc1_3-c1ccco1","level": "easy","name": "Williamson Ether Synthesis","reactants_smiles": ["Oc1ccccc1","BrC(c1ccc(OC)cc1)c1ccco1","[Na][H]"],"products_smiles": ["C(Oc1ccccc1)(c1ccc(OC)cc1)c1ccco1"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]c1ccccc1","step_weight": 0,"rationale": "NaH acts as a strong base, abstracting the alcohol proton due to the high acidity of the O–H bond and forming a resonance-stabilized alkoxide anion."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(Oc1ccccc1)(c1ccc(OC)cc1)c1ccco1","step_weight": 0,"rationale": "The alkoxide, being a strong nucleophile, attacks the electrophilic carbon of the alkyl bromide in an SN2 fashion, favored by the good leaving ability of bromide and minimal steric hindrance."}],"description": "In the Williamson ether synthesis, an alcohol is first deprotonated by a strong base to form an alkoxide, which is a strong nucleophile. This alkoxide then undergoes an SN2 reaction with an alkyl halide, yielding the ether product efficiently under mild conditions."}
{"reaction_id": "NR-133_1-c1ccc(C#N)cc1_2-c1ccc(S(=O)(=O)N(C)C)cc1","name": "Lobry-de Bruyn-van Ekenstein Rearrangement","level": "medium","reactants_smiles": ["C(O)(c1ccc(S(=O)(=O)N(C)C)cc1)C(=O)(c1ccc(C#N)cc1)"],"products_smiles": ["C(=O)(c1ccc(S(=O)(=O)N(C)C)cc1)C(O)(c1ccc(C#N)cc1)"],"conditions": "Base or Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(c1ccc(S(=O)(=O)N(C)C)cc1)=C([O-])(c1ccc(C#N)cc1)","rationale": "Base abstracts the α-hydroxy proton, generating an enolate stabilized by resonance with the adjacent carbonyl, facilitating rearrangement."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(c1ccc(S(=O)(=O)N(C)C)cc1)=C(O)(c1ccc(C#N)cc1)","rationale": "Protonation of the enolate oxygen yields the neutral enediol, stabilized by conjugation between hydroxyl and alkene."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(c1ccc(S(=O)(=O)N(C)C)cc1)=C(O)(c1ccc(C#N)cc1)","rationale": "Deprotonation at the other hydroxyl group forms an enolate at the alternate carbon, enabling tautomerization toward the product carbonyl position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c1ccc(S(=O)(=O)N(C)C)cc1)C(O)(c1ccc(C#N)cc1)","rationale": "Protonation of the enolate oxygen regenerates the carbonyl, producing the thermodynamically favored α-hydroxy carbonyl product."}],"description": "Under basic or acidic conditions, the Lobry-de Bruyn-van Ekenstein rearrangement interconverts an α-hydroxy ketone and an α-hydroxy aldehyde via enediol intermediates. Sequential proton transfers enable tautomerization, driven by stabilization of the enolate/enediol forms and the thermodynamic preference for the carbonyl arrangement in the product."}
